US04478833
8-Amino-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 8-amino-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 270°-272° C.; decomposition) and 2-hydroxyethyl-amine.

reactant | 8-amino-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C10H11ClN6OS
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 8-Amino-2-(2-hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine | NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)NCCO | C12H17N7O2S
